US03979430
23.4 Gm. of 5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl acetonitrile is refluxed for seven hours in 160 ml. of acetic acid and 240 ml. of concentrated hydrochloric acid. The solution is cooled and added to ethyl acetate and water. The organic layer is washed with water then extracted with aqueous sodium carbonate. The extract is acidified with hydrochloric acid and extracted with ethyl acetate. The extract is dried and evaporated to afford the product which is recrystallized from acetone/hexane to give 9.5 gm., 50%, of 5H-dibenzo[a,d]cyclohepten-5-on-2-yl acetic acid, m.p. 148°-149.5°C. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionitrile gives a 75% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid, m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C.

reactant | 5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl acetonitrile | C1OC2(C3=C(C=CC4=C2C=CC(=C4)CC#N)C=CC=C3)OC1 | C19H15NO2
reactant | hydrochloric acid | Cl | ClH
reactant | 5H-dibenzo[a,d]cyclohepten-5-on-2-yl acetic acid | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)CC(=O)O | C17H12O3
reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionitrile | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(C#N)C)C=CC=C3)OC1 | C20H17NO2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid | 75% yield | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
